US08895733B2
3-[4-Amino-6-(methyl-phenyl-amino)-[1,3,5]triazin-2-yl]-[1,2,4]oxadiazole-5-carboxylic acid benzylamide (Method 6)
3-[4-Amino-6-(methyl-phenyl-amino)-[1,3,5]triazin-2-yl]-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester (prepared in an analogous manner to Example 73, Example 73, 80 mg, 230 μmol), benzylamine (50 μL, 230 μmol) and ethanol (4 mL) were heated under reflux for 4 h. After evaporation of the solvent, the crude residue was loaded onto a 5 g isolute pre-pack silica column in a minimal amount of DCM and eluted with 10-30% ethyl acetate-heptane to give the title compound (79 mg, 85%).

reactant | 3-[4-Amino-6-(methyl-phenyl-amino)-[1,3,5]triazin-2-yl]-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=NO1)C1=NC(=NC(=N1)N)N(C1=CC=CC=C1)C | C15H15N7O3
reactant | benzylamine | 230 μmol, 50 μL | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 3-[4-Amino-6-(methyl-phenyl-amino)-[1,3,5]triazin-2-yl]-[1,2,4]oxadiazole-5-carboxylic acid benzylamide | 79 mg, 85% | C(C1=CC=CC=C1)NC(=O)C1=NC(=NO1)C1=NC(=NC(=N1)N)N(C1=CC=CC=C1)C | C20H18N8O2
